US07713969B2
3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-bromo-1H-indol-3-yl)pyrrole-2,5-dione, prepared as in Example 24, was reduced with Mg in methanol as described in Example 2, Procedure C, to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-bromo-1H-indol-3-yl)pyrrolidine-2,5-dione. 1H NMR (CD3OD) δ: 2.18-2.26(m, 2H), 2.96(t, J=6.0 Hz, 2H), 4.12(t, J=6.4 Hz, 2H), 4.40(d, J=6.8 Hz, 1H), 4.52(d, J=6.8 Hz, 1H), 6.86-6.96(m, 2H), 7.08(s, 1H), 7.13-7.30 (m, 5H)

reactant | 3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-bromo-1H-indol-3-yl)pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=C(C=C23)Br)=O)=O | C23H16BrN3O2
solvent | methanol | CO | CH4O
product | (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(5-bromo-1H-indol-3-yl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CNC3=CC=C(C=C23)Br)=O)=O | C23H18BrN3O2
